US08541457B2
Synthesis of 2-(4-Chlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 4-chlorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 23% yield; 1H NMR (CDCl3, 300 MHz) δ 7.84 (d, J=8.5 Hz, 2H), 7.45 (d, J=8.5 Hz, 2H), 7.32-7.24 (m, 5H), 6.02 (s, 1H), 5.27 (s, 2H), 2.01 (s, 3H); MS (ES+) m/z 386.1 (M+1).

reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(4-Chlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 23% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=C(C=C1)Cl)=O)C | C19H16ClN3O2S
